### PR TITLE
Adding `semiNormedType` to mathcomp hierarchy

### PR DESCRIPTION
**Pull request by CohenCyril**
This change of hierarchy is required to define seminorms in mathcomp
analysis, and thus put an instance of semiNormedType on $\mathcal{L}^p$.

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/ssrnum.v [hunk 1]
```diff
@@ -102,14 +104,37 @@ Module Num.
...
 }.
+HB.builders Context (R : POrderedZmodule.type) M of Zmodule_isNormed R M.
+  HB.instance Definition _ :=
+    Zmodule_isSemiNormed.Build R M ler_normD normrMn normrN.
+  HB.instance Definition _ :=
+    SemiNormedZmodule_isPositiveDefinite.Build R M normr0_eq0.
+HB.end.
 
 #[short(type="normedZmodType")]
 HB.structure Definition NormedZmodule (R : porderZmodType) :=
```
Comment (Tragicus) [inline algebra/ssrnum.v:140]:
```suggestion
#[short(type="normedZmodType")]
HB.structure Definition NormedZmodule (R : porderZmodType) :=
  { M of SemiNormedZmodule_isPositiveDefinite R M & SemiNormedZmodule R M }.
HB.factory Record Zmodule_isNormed (R : POrderedZmodule.type) M
         of GRing.Zmodule M := {
  norm : M -> R;
  ler_normD : forall x y, norm (x + y) <= norm x + norm y;
  normr0_eq0 : forall x, norm x = 0 -> x = 0;
  normrMn : forall x n, norm (x *+ n) = norm x *+ n;
  normrN : forall x, norm (- x) = norm x;
}.
HB.builders Context (R : POrderedZmodule.type) M of Zmodule_isNormed R M.
  HB.instance Definition _ :=
    Zmodule_isSemiNormed.Build R M ler_normD normrMn normrN.
  HB.instance Definition _ :=
    SemiNormedZmodule_isPositiveDefinite.Build R M normr0_eq0.
HB.end.
```
Defining the structure first to avoid the spurious absence of instance being built in the builder.

File: algebra/ssrnum.v [hunk 2]
```diff
@@ -649,20 +670,38 @@ Qed.
...
 Lemma normr_ge0 v : 0 <= `|v|. Proof. by rewrite ger0_def normr_id. Qed.
 
+Lemma normr_lt0 v : `|v| < 0 = false.
+Proof. by rewrite le_gtF// normr_ge0. Qed.
+
+Lemma gtr0_norm_neq0 v : `|v| > 0 -> (v != 0).
+Proof. by apply: contra_ltN => /eqP->; rewrite normr0. Qed.
+
+Lemma gtr0_norm_eq0F v : `|v| > 0 -> (v == 0) = false.
+Proof. by move=> /gtr0_norm_neq0/negPf->. Qed.
```
Comment (Tragicus) [inline algebra/ssrnum.v:680]: This is not really interesting given the previous lemma.

File: doc/changelog/02-changed/1333-seminorm.md [hunk 3]
```diff
@@ -0,0 +1,8 @@
+- in `ssrnum.v`
+  + Mixin `Zmodule_isNormed` is now a factory building a
+    `SemiNormedZmodule` and a `SemiNormedZmodule_isPositiveDefinite`.
+    All lemmas from the theory of `normedZmodType` were generalized
+    to `semiNormedZmodType` but for the ones that require a
+    `normedZmodType`, namely `normr0_eq0`, `normr0P` and `normr_eq0`.
```
Comment (Tragicus) [inline doc/changelog/02-changed/1333-seminorm.md:6]: The negative form is weird and not find-friendly, and it costs basically nothing to list the lemmas that you did generalize.

File: .nix/config.nix [hunk 4]
```diff
@@ -15,7 +15,7 @@ with builtins; with (import <nixpkgs> {}).lib;
 
   ## Indicate the relative location of your _CoqProject
   ## If not specified, it defaults to "_CoqProject"
-  coqproject = "mathcomp/_CoqProject";
+  coqproject = "_CoqProject";
```
Comment (Tragicus) [inline .nix/config.nix:18]: This does not belong to this PR.

**Review by Tragicus — COMMENTED** [review]
Oooh, shiny! I am so jealous that you had only one pattern annotation to add.

File: .nix/config.nix (hunk 4 above)
Comment (proux01) [reply .nix/config.nix:18]: Sure, but it is its own trivial commit. Probably not worth its own PR if you plan to merge this relatively rapidely?

File: algebra/ssrnum.v (hunk 2 above)
Comment (CohenCyril) [reply algebra/ssrnum.v:680]: Sure but it's often more useful... (that's why we have `lt_eqF` lemmas)

File: doc/changelog/02-changed/1333-seminorm.md (hunk 3 above)
Comment (CohenCyril) [reply doc/changelog/02-changed/1333-seminorm.md:6]: agreed

File: algebra/ssrnum.v (hunk 2 above)
Comment (Tragicus) [reply algebra/ssrnum.v:680]: I can not find the `_ < _ -> _ != _` version, so it makes sense to have the `_ < _ -> _ == _ = false` (although it feels a bit weird to me). I am very unsure we want both.

File: algebra/ssrnum.v (hunk 1 above)
Comment (CohenCyril) [reply algebra/ssrnum.v:140]: Actually this should not matter, can you tell the difference?

Comment (Tragicus) [reply algebra/ssrnum.v:140]: The current version causes a warning.

File: algebra/ssrnum.v (hunk 2 above)
Comment (CohenCyril) [reply algebra/ssrnum.v:680]: I'll keep both (they are part of the zoo of contraposition lemmas)

Comment (Tragicus) [reply algebra/ssrnum.v:680]: This is precisely why I think it is not useful to have both ^^

File: doc/changelog/01-added/1333-seminorm.md [hunk 5]
```diff
@@ -0,0 +1,4 @@
+- in `ssrnum.v`
+  + lemmas `gtr0_norm_neq0`, and `gtr0_norm_eq0F`
+    (`#1333 <https://github.com/coq/stdlib/pull/1333>`_,
+    by Cyril Cohen).
```
Comment (Tragicus) [inline doc/changelog/01-added/1333-seminorm.md:4]: The changelog `02-changed` says ` by Alessandro Bruni and Cyril Cohen`. Should it not be the same here, as well as in `03-renamed`?

File: doc/changelog/03-renamed/1333-seminorm.md [hunk 6]
```diff
@@ -0,0 +1,5 @@
+- in `ssrnum.v`
+  + Mixin `Zmodule_isSemiNormed` and class `SemiNormedZmodule` with
+    associated structure `semiNormedZmodType`.
+    (`#1333 <https://github.com/coq/stdlib/pull/1333>`_,
```
Comment (Tragicus) [inline doc/changelog/03-renamed/1333-seminorm.md:4]: This is not a renaming, but an addition.

File: algebra/ssrnum.v [hunk 7]
```diff
@@ -515,15 +540,16 @@ Module Import Theory.
 Section NumIntegralDomainTheory.
 
 Variable R : numDomainType.
-Implicit Types (V : normedZmodType R) (x y z t : R).
+
```
Comment (Tragicus) [inline algebra/ssrnum.v:543]: Spurious new line?

File: algebra/ssrnum.v (hunk 2 above)
Comment (Tragicus) [reply algebra/ssrnum.v:680]: There is basically only this remaining (afaict). @proux01 what do you think?

Comment (proux01) [reply algebra/ssrnum.v:680]: No strong opinion. I tend to find the `(v == 0) = false` form convenient for direct rewriting (rather than `v != 0` which is less immediate to rewrite with the `negb`).

Comment (CohenCyril) [reply algebra/ssrnum.v:680]: > This is precisely why I think it is not useful to have both ^^

Until we have a general contraposition tacitc and Hint Views working with rewrite, I'd like to keep both.

File: algebra/ssrnum.v (hunk 7 above)
Comment (CohenCyril) [inline algebra/ssrnum.v:543]:
```suggestion
```

**Review by Tragicus — APPROVED** [review]

File: algebra/ssrnum.v [hunk 8]
```diff
@@ -649,20 +669,38 @@ Qed.
 
 Lemma normr_ge0 v : 0 <= `|v|. Proof. by rewrite ger0_def normr_id. Qed.
 
+Lemma normr_lt0 v : `|v| < 0 = false.
+Proof. by rewrite le_gtF// normr_ge0. Qed.
+
+Lemma gtr0_norm_neq0 v : `|v| > 0 -> (v != 0).
```
Comment (proux01) [inline algebra/ssrnum.v:675]: Maybe
```suggestion
Lemma gtr0_norm_neq0 v : (`|v| > 0) = (v != 0).
```

**Review by proux01 — APPROVED** [review]
Not sure I get the last commit that just remove a line while being called "Update ssrnum" but otheriwse LGTM.

File: algebra/ssrnum.v (hunk 8 above)
Comment (CohenCyril) [reply algebra/ssrnum.v:675]: This is precisely what's not true anymore with seminorms...

Comment (proux01) [reply algebra/ssrnum.v:675]: Indeed

**Comment by proux01** [comment]
So, let's merge
